US07419980B2
(1-{2-[4-(2-hydroxy-2-methylpropyl)piperazin-1-yl]-1-[3-(trifluoromethoxy)phenyl]ethyl}cyclohexanol (30 mg) was dissolved in methanol (0.5 mL) and treated with a saturated methanolic solution of hydrochloric acid (0.5 mL) followed by diethyl ether. After crystallizing in the refrigerator for 16 h, the resulting solid was collected, washed with diethyl ether and dried in vacuo to yield 16 mg (54%) (1-{2-[4-(2-hydroxy-2-methylpropyl)piperazin-1-yl]-1-[3-(trifluoromethoxy)phenyl]ethyl}cyclohexanol dihydrochloride as a white solid. MS m/z 445; HRMS: calcd for C23H35F3N2O3+H+, 445.26725; found (ESI, [M+H]+), 445.268.

reactant | 1-{2-[4-(2-hydroxy-2-methylpropyl)piperazin-1-yl]-1-[3-(trifluoromethoxy)phenyl]ethyl}cyclohexanol | 30 mg | OC(CN1CCN(CC1)CC(C1=CC(=CC=C1)OC(F)(F)F)C1(CCCCC1)O)(C)C | C23H35F3N2O3
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 0.5 mL | CO | CH4O
product | 1-{2-[4-(2-hydroxy-2-methylpropyl)piperazin-1-yl]-1-[3-(trifluoromethoxy)phenyl]ethyl}cyclohexanol dihydrochloride | Cl.Cl.OC(CN1CCN(CC1)CC(C1=CC(=CC=C1)OC(F)(F)F)C1(CCCCC1)O)(C)C | InChI=1S/C23H35F3N2O3.2ClH/c1-21(2,29)17-28-13-11-27(12-14-28)16-20(22(30)9-4-3-5-10-22)18-7-6-8-19(15-18)31-23(24,25)26;;/h6-8,15,20,29-30H,3-5,9-14,16-17H2,1-2H3;2*1H
